US05104888
5-[4-(4,6-Dihydroxy-2,5,7,8-tetramethylchroman-2-yl-methoxy)benzyl]thiazolidine-2,4-dione (Step H1)
450 mg of sodium borohydride were added to a mixture of 278 mg of 5-[4-(6-hydroxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine -2,4-dione (prepared as described in Example 22 of copending U.S. Ser. No. 644,996) and 9 ml of methanol, and the mixture was stirred for 2 hours at room temperature, after which a 1% w/v aqueous solution of acetic acid was added and the mixture was neutralized with an aqueous solution of potassium carbonate. It was then extracted with ethyl acetate. The ethyl acetate extract was washed with water and dried over anhydrous sodium sulfate. The ethyl acetate was distilled from the extract under reduced pressure and the resulting residue was purified by silica gel column chromatography, using a 5:3 by volume mixture of hexane and ethyl acetate as eluent, to give the title compound, melting at 102°-118° C.

reactant | sodium borohydride | 450 mg | [BH4-].[Na+]
reactant | 5-[4-(6-hydroxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine -2,4-dione | 278 mg | OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O)C | C24H25NO6S
reactant | methanol | 9 ml | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[4-(4,6-Dihydroxy-2,5,7,8-tetramethylchroman-2-yl-methoxy)benzyl]thiazolidine-2,4-dione | OC1CC(OC2=C(C(=C(C(=C12)C)O)C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C24H27NO6S
